data/mechanism_extracts/ChemCatalysis/10.1016_j.checat.2021.08.004.json
{"doi": "10.1016_j.checat.2021.08.004", "journal": "ChemCatalysis", "is_review": false, "rxn_class_summary": "Electrochemical (3+2) cyclization between amides and olefins using DCE as a chlorine source to give 2-oxazolines via chloronium-ion intermediates", "mechanism_family": ["paired_electrolysis", "mediator_cathodic", "cation_initiated", "carbocation"], "electrochemical_role": "Consecutive paired electrolysis: DCE is reduced at the cathode to release chloride (with H2 evolution), then chloride is oxidized at the anode to a chlorine radical/Cl+ equivalent that forms a chloronium ion with the alkene; the chloride anion functions as a redox mediator generated in situ", "key_intermediates": [{"name": "chloride anion (from cathodic reduction of DCE)", "smiles": "[Cl-]", "role": "reactive"}, {"name": "chlorine radical / Cl+ (anodic oxidation of Cl-)", "smiles": null, "role": "transient"}, {"name": "chloronium ion of olefin (3-membered cyclic chloriranium)", "smiles": null, "role": "reactive"}, {"name": "β-chloro amide (ring-opened adduct, e.g. 5bc/5bc')", "smiles": "O=C(NC(Cl)Cc1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "2-aryl-4,5-dihydrooxazoline product", "smiles": null, "role": "reactive"}, {"name": "H2 (cathodic byproduct)", "smiles": "[H][H]", "role": "transient"}], "electron_flow": "At the cathode, DCE accepts 2 e- to release 2 Cl- (and ethylene/H2 byproducts); at the anode, Cl- is oxidized (-2e-) to Cl+/Cl•, which adds to the olefin to form a chloronium intermediate that is opened by the amide oxygen, followed by deprotonation and cyclization (intramolecular N attack with loss of HCl) to give the oxazoline.", "rate_determining_step": "Electrochemical redox step (first-order in current; zero-order in both indene and benzamide), consistent with anodic Cl- oxidation being rate-limiting", "probe_reagents": [{"name": "AgNO3 (chloride detection)", "smiles": "[Ag+].[O-][N+](=O)=O", "purpose": "intermediate_trap", "observation": "White AgCl precipitate formed from electrolyzed solution, confirming Cl- generation; solution pH = 3.19 (acidic)"}, {"name": "Styrene (as model olefin without base)", "smiles": "C=Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Isolated β-chloroamides 5bc (40%) and 5bc' (41%); subsequent treatment with NaOAc converted them to oxazolines 4bc/4bc' (35%/33%), supporting them as on-cycle intermediates"}, {"name": "HCl additive (10 mol%) in THF", "smiles": "Cl", "purpose": "other", "observation": "In THF (no DCE chloride source) yield dropped to 11%; adding 10 mol% HCl restored 51% yield with r.r. = 10:1, confirming the essential role of chloride"}, {"name": "Cyclic voltammetry of DCE, 1a, 2a, TBACl", "smiles": null, "purpose": "redox_probe", "observation": "DCE reduces at -1.5 V vs Ag/AgCl; Cl- oxidation at 1.5 V is lower than 1a (1.8 V) or 2a, so Cl- is preferentially oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "kinetic_order", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors note an induction period in time-monitored conversion (consistent with Cl- buildup before productive turnover). An alternative pathway in which the indene is first anodically oxidized to a radical cation cannot be excluded (see SI Figure S9); the favored pathway proceeds via chloronium ion formed from anodically generated Cl+/Cl•."}
